US07465726B2
3-Amino-1-phenethyl-1H-pyrazole
To a solution of 3-nitro-1-phenethyl-1H-pyrazole (90 mg, 0.41 mmol) in ethyl acetate (2 mL) and ethanol (2 mL) was added 10% Pd—C (20 mg), the resulting mixture was stirred under hydrogen atmosphere overnight. TLC showed the reaction was complete. The catalyst was removed by filtration through a pad of celite, and the filtrate was concentrated under reduced pressure to give the title compound as colorless oil. LC-MS (ES, Pos.): 188 [MH+]. 1H NMR (CDCl3, 400 MHz): δ=3.10 (t, J=7.2 Hz, 2H), 3.64 (br s, 2H), 4.12 (t, J=7.2 Hz, 2H), 5.51 (d, J=2.3 Hz, 1H), 6.91 (d, J=2.3 Hz, 1H), 7.08-7.11 (m, 2H), 7.20-7.30 (m, 3H).

reactant | 3-nitro-1-phenethyl-1H-pyrazole | 0.41 mmol, 90 mg | [N+](=O)([O-])C1=NN(C=C1)CCC1=CC=CC=C1 | C11H11N3O2
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | Pd—C | 20 mg | [Pd] | Pd
product | 3-Amino-1-phenethyl-1H-pyrazole | NC1=NN(C=C1)CCC1=CC=CC=C1 | C11H13N3
